US07405299B2
A. Preparation of Trifluoro-methanesulfonic Acid Quinoxalin-5-yl Ester
Add trifluoromethanesulfonic anhydride (0.66 mL, 3.94 mmol) to a solution of quinoxalin-5-ol (Yamamoto, T. et al., J. Am. Chem. Soc. 1996, 118, 3930-3936; 500 mg, 3.42 mmol) in pyridine (6.8 mL) at 0° C. Allow the reaction to warm slowly to room temperature over 18 h. Add saturated aqueous sodium bicarbonate solution (100 mL) and extract the mixture with methylene chloride (3×100 mL). Dry the combined organic solutions with sodium sulfate, concentrate in vacuo, and purify by flash column chromatography to provide the subtitled compound (810 mg, 85%) as an off-white solid. MS ESI+ m/e 279 (M+1). 1H NMR (CDCl3): δ 8.85 (m, 2H), 8.18 (m, 1H), 7.84 (m, 1H), 7.63 (m, 1H). TLC (SiO2): Rf0.2 (3:1 hexanes/ethyl acetate).

reactant | trifluoromethanesulfonic anhydride | 3.94 mmol, 0.66 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | quinoxalin-5-ol | 3.42 mmol, 500 mg | N1=CC=NC=2C(=CC=CC12)O | C8H6N2O
solvent | pyridine | 6.8 mL | N1=CC=CC=C1 | C5H5N
product | Trifluoro-methanesulfonic Acid Quinoxalin-5-yl Ester | 810 mg, 85% | N1=CC=NC2=C(C=CC=C12)OS(=O)(=O)C(F)(F)F | C9H5F3N2O3S
